US06921762B2
5-hydroxy-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine (0.3 g, 0.76 mmol), POCl3 (0.459 g, 3 mmol), and diisopropylethylamine (0.387 g, 3 mmol) in a 50-ml r.b.flask with a stir bar was stirred at 120° C. overnight. The reaction solution was cooled to room temperature and 20 ml of EtOAc and 5 g of SiO2 gel were added into the cooled solution. The solvents were evaporated in vacuo at 40° C. The resulting brown solid was placed on a cake of SiO2 gel (˜20 g) and washed with 250 ml of EtOAc. The brown filtrate was evaporated in vacuo to give 5-chloro-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine; MS m/z (M)+ 410; C17H8Cl2F3N5 requir. 410.2.

reactant | 5-hydroxy-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine | 0.76 mmol, 0.3 g | OC1=NC(=C(C=2N1C=NN2)C2=CC(=CC=C2)C(F)(F)F)C2=CC(=NC=C2)Cl | C17H9ClF3N5O
reactant | POCl3 | 3 mmol, 0.459 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | diisopropylethylamine | 3 mmol, 0.387 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | 5-chloro-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine | ClC1=NC(=C(C=2N1C=NN2)C2=CC(=CC=C2)C(F)(F)F)C2=CC(=NC=C2)Cl | C17H8Cl2F3N5
